US07786130B2
[2-Methoxy-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-pyridin-3-yl]-carbamic acid benzyl ester
A mixture of (5-iodo-2-methoxy-pyridin-3-yl)-carbamic acid benzyl ester (100 g, 260.5 mmol, 1.0 Eq.), bis(pinacolato)diboron (69.4 g, 273.3 mmol, 1.05 Eq.) and potassium acetate (76.64 g, 780.8 mmol, 3.0 Eq.) in anhydrous dioxane (900 mL) was degassed and flushed with nitrogen. PdCl2(PPH3)4 (5.48 g, 7.8 mmol, 3 mol %) was added and the reaction heated to reflux overnight. After cooling to ambient temperature, the solvent was removed in vacuo and the residue dissolved in ethyl acetate, washed with aqueous brine, dried (MgSO4) and the solvent removed in vacuo. The crude product was purified by column chromatography (1.2 L SiO2, load in minimum DCM) eluting with 20% EtOAc/petroleum ether to give, after concentration, 100 g of an orange oil which solidified on standing. This was treated with n-heptane (500 mL) and heated to reflux. On cooling the resultant precipitate was collected by filtration and washed with hexane to give the desired product as a golden solid (65.25 g, 169.8 mmol, 65%).

reactant | (5-iodo-2-methoxy-pyridin-3-yl)-carbamic acid benzyl ester | 260.5 mmol, 100 g, 1.0 Eq. | C(C1=CC=CC=C1)OC(NC=1C(=NC=C(C1)I)OC)=O | C14H13IN2O3
reactant | bis(pinacolato)diboron | 273.3 mmol, 69.4 g, 1.05 Eq. | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 780.8 mmol, 76.64 g, 3.0 Eq. | C(C)(=O)[O-].[K+]
solvent | dioxane | 900 mL | O1CCOCC1 | C4H8O2
product | [2-Methoxy-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-pyridin-3-yl]-carbamic acid benzyl ester | 169.8 mmol, 65.25 g, 65% | C(C1=CC=CC=C1)OC(NC=1C(=NC=C(C1)B1OC(C(O1)(C)C)(C)C)OC)=O | C20H25BN2O5
